US07179812B2
2-(4-[1,2,3]Triazol-1-yl-butyl)-5-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine
A mixture of 4-chlormethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole (0.144 g, 0.50 mmol), 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidin-5-ol (0.078 g, 0.357 mmol) and cesium carbonate (Cs2CO3) (0.175 g, 0.536 mmol) in DMF (10 ml) is kept at 80° C. for 2 h. After cooling ethyl acetate (25 ml) is added, the mixture is washed with sat. NH4Cl and brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate (100%)->ethyl acetate/methanol 9:1) and 2-(4-[1,2,3]-triazol-1-yl-butyl)-5-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine can be isolated as a white solid. Yield 40 mg (24%).

reactant | 4-chlormethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 0.144 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
reactant | 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidin-5-ol | 0.357 mmol, 0.078 g | N1(N=NC=C1)CCCCC1=NC=C(C=N1)O | C10H13N5O
reactant | cesium carbonate | 0.536 mmol, 0.175 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-[1,2,3]Triazol-1-yl-butyl)-5-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | N1(N=NC=C1)CCCCC1=NC=C(C=N1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C23H21F3N6O2
